US05171854
Benzhydryl 7phenylacetamido-3-(triphenylphosphonio)methyl-3-cephem-4-carboxylate iodide
32.5 g (0.0609 mol) of benzhydryl 7-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylate are dissolved in 330 ml of acetone, and 10.1 g (0.0674 mol) of NaI and 17.6 g (0.0671 mol) of triphenylphosphine are added in succession, with stirring. After the mixture has been stirred at room temperature for 1.5 hours, the insoluble material is removed by filtration with suction and the clear mother liquor is stirred into 1,000 ml of ether. The white flocculent material which precipitates out is filtered off with suction, washed with 300 ml of ether and dried in vacuo.

reactant | benzhydryl 7-phenylacetamido-3-chloromethyl-3-cephem-4-carboxylate | 0.0609 mol, 32.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25ClN2O4S
reactant | NaI | 0.0674 mol, 10.1 g | [Na+].[I-]
reactant | triphenylphosphine | 0.0671 mol, 17.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 330 ml | CC(=O)C | C3H6O
product | Benzhydryl 7phenylacetamido-3-(triphenylphosphonio)methyl-3-cephem-4-carboxylate iodide | [I-].C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C47H39N2O4PS.HI/c50-41(31-34-19-7-1-8-20-34)48-42-45(51)49-43(47(52)53-44(35-21-9-2-10-22-35)36-23-11-3-12-24-36)37(33-55-46(42)49)32-54(38-25-13-4-14-26-38,39-27-15-5-16-28-39)40-29-17-6-18-30-40;/h1-30,42,44,46H,31-33H2;1H/t42?,46-;/m1./s1
